US04415580
A mixture containing 34 g of 2,4-hexanedione, 50 ml of dimethylformamide and 40 ml of dimetylformamide dimethyl acetal was allowed to stand at room temperature overnight and then concentrated on a rotary evaporator at steam bath temperature to yield, as a liquid, 3-dimethylaminomethylene-2,4-hexanedione. A mixture containing said 3-dimethylaminomethylene-2,4-hexanedione, 300 ml of methanol 25.2 g of cyanoacetamide and 16.2 g of sodium methoxide was refluxed with stirring for 3 hours and then concentrated in vacuo to remove the methanol. The residue was dissolved in 300 ml of warm water and filtered. The filtrate was acidified with acetic acid and the resulting precipitate was collected, washed with water, dried in vacuo at 90°-95° C. and recrystallized from dimethylformamide (75 ml) to yield 7.8 g of 1,2-dihydro-6-methyl-2-oxo-5-(n-propanoyl)nicotinonitrile, m.p. 265°-268° C. with decomposition. The mother liquor was concentrated to dryness and digested with hot methanol and cooled. The separated solid was dried, 20.2 g, and recrystallized from dimethylformamide to yield 9.8 g of finely crystalline material, m.p. 259°-263° C. with decomposition. The NMR spectral data for this compound indicated it to be mostly said 1,2-dihydro- 6-methyl-2-oxo-5-(n-propanoyl)nicotinonitrile. The resulting mother liquors were combined and concentrated on a rotary eveporator and the resulting residue was recrystallized from ethanol to yield 20.4 g of solid, m.p. 220°-226° C. The NMR spectral data for this solid indicated it to be a 5:4 mixture of said 1,2-dihydro-6-methyl-2-oxo-5-(n-propanoyl)nicotinonitrile and 5-acetyl-6-ethyl-1,2-dihydro-2-oxonicotinonitrile. Preliminary attempts to separate the two compounds by fractional crystallization were unsuccessful; however, the two compounds should be separable.

reactant | 3-dimethylaminomethylene-2,4-hexanedione | CN(C)C=C(C(C)=O)C(CC)=O | C9H15NO2
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 16.2 g | C[O-].[Na+]
solvent | methanol | 300 ml, 25.2 g | CO | CH4O
product | 1,2-dihydro-6-methyl-2-oxo-5-(n-propanoyl)nicotinonitrile | 7.8 g | CC=1NC(C(C#N)=CC1C(CC)=O)=O | C10H10N2O2
